US06582351B1
A mixture of 4-(trans-4-hydroxycyclohexylamino)-3-nitrobenzotrifluoride (4.0 g) and 10% palladium on activated carbon (400 mg) in a mixture of methanol (20 mL) and dioxane(20 mL) was stirred under hydrogen atmosphere (3 atm) at ambient temperature for 4 hours. The reaction mixture was filtered through a celite pad, and the filtrate was concentrated in vacuo. The residue was subjected to a silica gel column chromatography eluting with a mixture of chloroform and methanol (20:1). The obtained substance was triturated with petroleum ether to give 3-amino-4-(trans-4-hydroxycyclohexylamino)benzotrifluoride (3.5 g) as a pale orange solid.

reactant | 4-(trans-4-hydroxycyclohexylamino)-3-nitrobenzotrifluoride | 4.0 g | O[C@@H]1CC[C@H](CC1)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C13H15F3N2O3
catalyst | palladium on activated carbon | 400 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-amino-4-(trans-4-hydroxycyclohexylamino)benzotrifluoride | 3.5 g | NC=1C=C(C=CC1N[C@@H]1CC[C@H](CC1)O)C(F)(F)F | C13H17F3N2O
